US09029366B2
Benzyl bromide (0.13 mL, 1.1 mmol) was added to a stirred suspension of ethyl 1-{2-[(tert-butoxycarbonyl)amino]ethyl}-3-hydroxy-1H-pyrazole-5-carboxylate (0.3 g, 1 mmol) and Cs2CO3 (0.65 g, 2 mmol) in ACN (5 mL). The mixture was stirred at room temperature for 16 hours and the solvents were evaporated in vacuo. The crude product was diluted with water and extracted with AcOEt. The organic layer was separated, dried (Na2SO4), filtered and the solvents evaporated in vacuo. The crude product was purified by flash column chromatography (silica; AcOEt in heptane 0/100 to 50/50). The desired fractions were collected and the solvents evaporated in vacuo to yield ethyl 3-(benzyloxy)-1-{2-[(tert-butoxycarbonyl)amino]ethyl}-1H-pyrazole-5-carboxylate (0.29 g, 73% yield) as a colorless oil.

reactant | Benzyl bromide | 1.1 mmol, 0.13 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | ethyl 1-{2-[(tert-butoxycarbonyl)amino]ethyl}-3-hydroxy-1H-pyrazole-5-carboxylate | 1 mmol, 0.3 g | C(C)(C)(C)OC(=O)NCCN1N=C(C=C1C(=O)OCC)O | C13H21N3O5
reactant | Cs2CO3 | 2 mmol, 0.65 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | ACN | 5 mL | C(C)#N | C2H3N
product | ethyl 3-(benzyloxy)-1-{2-[(tert-butoxycarbonyl)amino]ethyl}-1H-pyrazole-5-carboxylate | 0.29 g, 73% yield | C(C1=CC=CC=C1)OC1=NN(C(=C1)C(=O)OCC)CCNC(=O)OC(C)(C)C | C20H27N3O5
